US06469005B1
To a stirred solution of 11.5 g ethyl pyruvate in 20 ml diethylether is slowly added under cooling (0° C.), a freshly prepared Grignard solution (from 23.9 g 4-chloro-iodobenzene and 3 g magnesium turnings). Some tetrahydrofurane is added to prevent the formation of viscous suspension. After stirring for 2 hours at room temperature the reaction is quenched by pouring it onto a mixture of ice and 2N sulfuric acid. Extraction of the suspension with diethyl ether followed by washing with brine, drying over sodium sulfate and evaporation leads to a residue which is purified on silicagel (hexane-ethyl acetate) to obtain 2-(4-chlorophenyl)-2-hydroxy propionic acid ethyl ester as yellowish oil.

reactant | ethyl pyruvate | 11.5 g | C(C(=O)C)(=O)OCC | C5H8O3
reactant | 4-chloro-iodobenzene | 23.9 g | ClC1=CC=C(C=C1)I | C6H4ClI
reactant | magnesium | 3 g | [Mg] | Mg
reactant | tetrahydrofurane | O1CCCC1 | C4H8O
solvent | diethylether | 20 ml | C(C)OCC | C4H10O
product | 2-(4-chlorophenyl)-2-hydroxy propionic acid ethyl ester | C(C)OC(C(C)(O)C1=CC=C(C=C1)Cl)=O | C11H13ClO3
